US07504530B2
2-{2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethoxy}-ethanol (Compound I)
{2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethoxy}-acetic acid ethyl ester was dissolved in tetrahydrofuran at room temperature under nitrogen atmosphere. Lithium aluminium hydride was added to the solution in small portions until the reduction reaction was complete. The reaction was quenched with saturated aqueous ammonium chloride solution. The product was extracted into toluene, which was dried and evaporated in vacuo. The residue was purified with flash chromatography with toluene/triethyl amine (9.5:0.5) as eluent. Yield 68%.

reactant | {2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethoxy}-acetic acid ethyl ester | C(C)OC(COCCOC1=CC=C(C=C1)C(=C(CCCl)C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H29ClO4
reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-{2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethoxy}-ethanol | Yield 68% | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(OCCOCCO)C=C1)C1=CC=CC=C1 | C26H27ClO3
